US07109186B2
Compound 95-A: N-(4-fluoro-2-methylsulfanyl-benzyl)-O-methyl-hydroxylamine hydrochloride
To a stirred solution of 4-fluoro-2-methylsulfanyl-benzaldehyde-O-methyl-oxime (5.982 g, 29.58 mmol) in CH2Cl2 (30 mL) was added trifluoroacetic acid (30 mL) followed by triethylsilane (14 mL, 90 mmol). After stirring for 6 h, the reaction mixture was concentrated and the resulting residue was taken up in saturated aqueous NaHCO3 (100 mL) and extracted with ethyl acetate (3×75 mL). The combined organic extracts were dried over anhydrous Na2SO4, filtered, and concentrated to give a viscous oil. The crude product was re-dissolved in anhydrous ether and 2M HCl/ether w (18 mL) was added. The resulting white solid was filtered and dried to yield the desired product as the HCl salt (6.666 g, 93% yield). 1HNMR (500 MHz, DMSO-d6) δ: 11.44 (1H, br s), 7.66–7.59 (1H, m), 7.24 (1H, dd, J=10.1, 2.1 Hz), 7.08 (1H, td, J=8.6, 2.4 Hz), 4.85 (2H, s), 3.82 (3H, s), 2.53 (3H, s). MS calcd for C9H13FNOS (M+H): 202.07. found: 202.07.

reactant | 4-fluoro-2-methylsulfanyl-benzaldehyde-O-methyl-oxime | 29.58 mmol, 5.982 g | CON=CC1=C(C=C(C=C1)F)SC | C9H10FNOS
reactant | trifluoroacetic acid | 30 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 90 mmol, 14 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | HCl ether | 2M | Cl.CCOCC
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | N-(4-fluoro-2-methylsulfanyl-benzyl)-O-methyl-hydroxylamine hydrochloride | 6.666 g, 93% yield | Cl.FC1=CC(=C(CNOC)C=C1)SC | InChI=1S/C9H12FNOS.ClH/c1-12-11-6-7-3-4-8(10)5-9(7)13-2;/h3-5,11H,6H2,1-2H3;1H
